US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3-cyanophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3-cyanophenylboronic acid (126 mg, 0.86 mmol) the subtitle compound was obtained (65 mg, 31%). 1H NMR (DMSO) δ 8.75(d, 1H), 8.57(dd, 1H), 8.35(t, 1H), 8.29(d, 1H), 8.21(dt, 1H), 8.00(d, 1H), 7.97(dt, 1H), 7.93(d, 1H), 7.80(t, 1H), 7.74(d, 1H), 4.17(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3-cyanophenylboronic acid | 0.86 mmol, 126 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3-cyanophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC=C2)C#N | C21H13N3O4
